US08258134B2
A solution of 3-cyclopentyl-2-(6-oxo-3-phenoxy-6H-pyridazin-1-yl)-propionic acid methyl ester (1.03 g, 3.03 mmol) in methanol (8.5 mL, 0.36M) was treated with a 4N aqueous sodium hydroxide solution (0.83 mL, 3.34 mmol) and stirred at 25° C. overnight. After this time, the reaction was concentrated in vacuo. The residue was diluted with water (100 mL) and acidified to pH=1 with a 3N aqueous hydrochloric acid solution. The resulting solids were collected by filtration, rinsed with water, air dried and then further dried in vacuo to afford 3-cyclopentyl-2-(6-oxo-3-phenoxy-6H-pyridazin-1-yl)-propionic acid (0.81 g, 81%) as a white solid. 1H-NMR (300 MHz, DMSO-d6) δ ppm 0.94 (br s, 2H), 1.29-1.70 (m, 7H), 1.79 (br s, 1H), 1.85-2.05 (m, 1H), 5.08 (dd, J=10.6, 3.0 Hz, 1H), 7.06 (d, J=9.7 Hz, 1H), 7.10-7.25 (m, 3H), 7.34-7.45 (m, 3H).

reactant | 3-cyclopentyl-2-(6-oxo-3-phenoxy-6H-pyridazin-1-yl)-propionic acid methyl ester | 3.03 mmol, 1.03 g | COC(C(CC1CCCC1)N1N=C(C=CC1=O)OC1=CC=CC=C1)=O | C19H22N2O4
reactant | sodium hydroxide | 3.34 mmol, 4N, 0.83 mL | [OH-].[Na+]
solvent | methanol | 0.36M, 8.5 mL | CO | CH4O
product | 3-cyclopentyl-2-(6-oxo-3-phenoxy-6H-pyridazin-1-yl)-propionic acid | 0.81 g, 81% | C1(CCCC1)CC(C(=O)O)N1N=C(C=CC1=O)OC1=CC=CC=C1 | C18H20N2O4
